US20010053429A1
5-Bromofuraldehyde was dissolved in dimethylsulfoxide (DMSO) and 1-2 drops of Aliquart 336 (tricaprylylmethylammonium chloride, produced by Aldrich Co.) was added to the solution. 10 Equivalents diethylamine was added to the mixture and refluxed for 4 days. The remaining diethylamine was removed from the reaction mixture and subjected to extraction and column chromatography to obtain 5-diethylamino-2-furaldehyde with a yield of 85%.

reactant | 5-Bromofuraldehyde | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | diethylamine | C(C)NCC | C4H11N
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
catalyst | Aliquart 336 | 1-2 drops | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 5-diethylamino-2-furaldehyde | yield of 85% | C(C)N(C1=CC=C(O1)C=O)CC | C9H13NO2
